US05025031
1-(4-Methoxyphenyl)-1H-imidazole
A mixture of 37.4 g (0.20 mole) of 4-bromoanisole, 170 g (0.25 mole) of imidazole, 26 g (0.2 mole) of potassium carbonate, and 1.2 g of cuprous bromide in 150 ml of N-methylprryolidinone was heated at reflux under a blanket of nitrogen for 4 hr. The mixture filtered and concentrated to remove the solvent. The residue was partioned between dilute sodium hydroxide solution and methylene chloride. After filtration, the organic fraction was chromatographed. The desired fractions were concentrated and the crystalline residue was recrystallized from toluene/cyclohexane to give 17.4 g (50%) of the title compound as white plates, mp 63.0-64.0° C.

reactant | 4-bromoanisole | 0.20 mole, 37.4 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | imidazole | 0.25 mole, 170 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.2 mole, 26 g | C([O-])([O-])=O.[K+].[K+]
product | 1-(4-Methoxyphenyl)-1H-imidazole | 17.4 g, 50% | COC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2O
